US07858632B2
To a solution of (4-chloro-2-methylsulfanyl-pyrimidin-5-yl)-(2-isopropyl-4,5-dimethoxy-phenyl)-methanol (6.5 g, 17.6 mmol) in 200 mL CH2Cl2 was added triethylsilane (28.0 mL, 176 mmol) and trifluoroacetic acid (TFA) (70 mL, 881 mmol). After 2 hours the solution was concentrated in vacuo, 10% K2CO3 was added and extracted with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification via flash chromatography (4:1 hexanes/ethyl acetate) afforded 4-chloro-5-(2-isopropyl-4,5-dimethoxy-benzyl)-2-methylsulfanyl-pyrimidine (5.60 g, 91%) as a clear oil.

reactant | (4-chloro-2-methylsulfanyl-pyrimidin-5-yl)-(2-isopropyl-4,5-dimethoxy-phenyl)-methanol | 17.6 mmol, 6.5 g | ClC1=NC(=NC=C1C(O)C1=C(C=C(C(=C1)OC)OC)C(C)C)SC | C17H21ClN2O3S
reactant | triethylsilane | 176 mmol, 28.0 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 881 mmol, 70 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-5-(2-isopropyl-4,5-dimethoxy-benzyl)-2-methylsulfanyl-pyrimidine | 5.60 g, 91% | ClC1=NC(=NC=C1CC1=C(C=C(C(=C1)OC)OC)C(C)C)SC | C17H21ClN2O2S
